US05719141
a) 3,4-Dihydro-1H-2,4-benzothiazine
1.47 ml of trimethylsilyl trifluoromethanesulfonate are added dropwise to a solution of 1.0 g of N-tert-butoxycarbonyl-3,4-dihydro-1H-2,4-benzothiazine in 35 ml of methylene chloride at room temperature, and 1.41 ml of 2,6-lutidine is added. The reaction mixture is stirred at room temperature for 20 minutes and then diluted with 5 ml of methanol and concentrated. The crude product is purified by means of FC (30 g of silica gel, mobile phase G). This gives the pure title compound: Rf (D)=0.26; Rt (I)=19.5 min; anal. calc. for C8H9NS: C 63.54%, H 6.00%, N 9.26%; found C 63.22%. H 6.01%, N 8.99%.

reactant | trimethylsilyl trifluoromethanesulfonate | 1.47 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | N-tert-butoxycarbonyl-3,4-dihydro-1H-2,4-benzothiazine | 1.0 g | C(C)(C)(C)OC(=O)N1CSCC2=C1C=CC=C2 | C13H17NO2S
reactant | 2,6-lutidine | 1.41 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
product | 3,4-Dihydro-1H-2,4-benzothiazine | N1CSCC2=C1C=CC=C2 | C8H9NS
